US08580957B2
A solution of 6-{[1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinyl]amino}-3-pyridinecarboxylic acid (for a preparation see example 143) (40 mg, 0.099 mmol) in dry methanol (2 mL) was treated at room temperature with HCl (4M in 1,4-dioxane, 200 μl, 0.800 mmol) and the resulting mixture was stirred at this temperature for one hour. Another portion of HCl (4M in 1,4-dioxane, 200 μl, 0.800 mmol) was added and the mixture was refluxed for 1 hour then cooled to room temperature and concentrated in vacuo. The residue was purified using MDAP (modifier: ammonium formate) to give methyl 6-{[(cis)-1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinyl]amino}-3-pyridinecarboxylate (12 mg, 0.029 mmol, 29%) as a white solid.

reactant | 6-{[1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinyl]amino}-3-pyridinecarboxylic acid | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N1C=NC(=C1)C)NC1=CC=C(C=N1)C(=O)O)C | C22H23N5O3
reactant | HCl | 0.800 mmol, 4M, 200 μl | Cl | ClH
reactant | HCl | 0.800 mmol, 4M, 200 μl | Cl | ClH
reactant | methanol | 2 mL | CO | CH4O
product | methyl 6-{[(cis)-1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinyl]amino}-3-pyridinecarboxylate | 0.029 mmol, 12 mg, 29% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)N1C=NC(=C1)C)NC1=CC=C(C=N1)C(=O)OC)C | C23H25N5O3
